US08431586B2
Step 1: 4-{[(1S,2R)-2-(cyanoamino)cyclohexyl]amino}-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide
In an argon atmosphere, to a solution of 3.30 g of 4-{[(1S,2R)-2-aminocyclohexyl]amino}-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide in 80 ml of tetrahydrofuran, 1.54 ml of triethylamine and 978 mg of cyanogen bromide were sequentially added at −20° C., and the mixture was stirred at the same temperature for 0.5 hour. Water was added to the reaction solution, and the mixture was subjected to an extraction with ethyl acetate. The organic layer was washed with water and saturated brine and dried over magnesium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography (chloroform:methanol=50:1), whereby 1.96 g of a desired compound was obtained as a pale yellow crystal.

reactant | 4-{[(1S,2R)-2-aminocyclohexyl]amino}-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide | 3.30 g | N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)C(=O)NCCOC | C19H27N5O2
reactant | cyanogen bromide | 978 mg | N#CBr | CBrN
reactant | Water | O | H2O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 1.54 ml | C(C)N(CC)CC | C6H15N
product | 4-{[(1S,2R)-2-(cyanoamino)cyclohexyl]amino}-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide | 1.96 g | C(#N)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)C(=O)NCCOC | C20H26N6O2
